US06184379B2
Acetic acid-(2-(2,2,4-trimethyl-7-methoxy-1,2-dihydroquinolin-1-yl)-ethyl) ester
18 g (0.17 mol) acetic anhydride was added to 10 g (0.04 mol) N-(2-hydroxyethyl)-2,2,4-trimethyl-7-methoxy-1,2-dihydroquinoline. 10 drops of concentrated sulphuric acid were added to this and it was heated for 1 h to 100 to 110° C. The reaction mixture was poured onto ice and extracted with chloroform. The combined organic phases were dried over sodium sulfate and distilled. The light-yellow oil that formed had a boiling point of 140° C./10−3 mbar.

reactant | acetic anhydride | 0.17 mol, 18 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | N-(2-hydroxyethyl)-2,2,4-trimethyl-7-methoxy-1,2-dihydroquinoline | 0.04 mol, 10 g | OCCN1C(C=C(C2=CC=C(C=C12)OC)C)(C)C | C15H21NO2
catalyst | sulphuric acid | 10 drops | S(O)(O)(=O)=O | H2O4S
product | Acetic acid-(2-(2,2,4-trimethyl-7-methoxy-1,2-dihydroquinolin-1-yl)-ethyl) ester | CC1(N(C2=CC(=CC=C2C(=C1)C)OC)CCOC(C)=O)C | C17H23NO3
